US08461134B2
To a solution of 3-bromoaniline (21.7 g, 0.126 mol) and TEA (20 ml, 0.178 mol) in DCM (300 ml) was added trifluoroacetic anhydride (31.8 g, 0.151 mol) dropwise at) 0° C. over 30 min. The reaction mixture was stirred at 0° C. to room temperature for 3 hrs. The r×n mix was washed with H2O, brine and dried over MgSO4. Filtered, concentrated in reduced pressure to dryness to give crude N-(3-bromophenyl)-2,2,2-trifluoroacetamide.

reactant | 3-bromoaniline | 0.126 mol, 21.7 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | trifluoroacetic anhydride | 0.151 mol, 31.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
product | N-(3-bromophenyl)-2,2,2-trifluoroacetamide | BrC=1C=C(C=CC1)NC(C(F)(F)F)=O | C8H5BrF3NO
